US03944570
A mixture of 40.8 g. (0.1 mole of α-(4-chlorophenyl)-α-(2-dimethylaminomethyl phenyl)-α-hydroxy-N-metyl-o-toluamide and 200 ml. o-dichlorobenzene is refluxed for 20 hours, cooled and the solvent is removed in vacuo. The residue is triturated with ether and the resulting solid is recrystallized from ether-methylene chloride (1:1) to give 3-(4-chlorophenyl)-3-(2-dimethylaminomethyl phenyl) phthalide; m.p. 138.5° - 140°C.

reactant | α-(4-chlorophenyl)-α-(2-dimethylaminomethyl phenyl)-α-hydroxy-N-metyl-o-toluamide | 0.1 mole | ClC1=CC=C(C=C1)C(C=1C(=CC=CC1)C(=O)NC)(O)C1=C(C=CC=C1)CN(C)C | C24H25ClN2O2
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(4-chlorophenyl)-3-(2-dimethylaminomethyl phenyl) phthalide | ClC1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)C1=C(C=CC=C1)CN(C)C | C23H20ClNO2
